US04503050
A mixture of 1.7 g (0.011 mole) of 4-amino-6-chloro-2-methoxypyrimidine and 3.0 g (0.015 mole) of 50% aqueous chloroacetaldehyde in 20 ml of water was heated at 80° C. for one hour, and was then cooled in an ice bath with concomitant neutralization with sodium bicarbonate. The mixture was extracted with three 50 ml portions of chloroform which were then dried over magnesium sulfate and evaporated. The residue obtained was dissolved in boiling benzene, treated with decolorizing charcoal, and filtered. The residue which was obtained by evaporation of the filtrate was triturated with diethyl ether to provide a yellow solid. The solid was purified on a preparative scale high pressure liquid chromatograph, using a mixture of 75% ethyl acetate/25% hexanes as the eluent. Recrystallization from cyclohexane gave white solid 7-chloro-5-methoxyimidazo[1,2-c]pyrimidine, m.p. 115°-118° C. Analysis: Calculated for C7H6H3OCl: %C,45.8; %H, 3.3; %N, 22.9; Found: %C,45.4; %H,3.1; %N,23.4.

reactant | 4-amino-6-chloro-2-methoxypyrimidine | 0.011 mole, 1.7 g | NC1=NC(=NC(=C1)Cl)OC | C5H6ClN3O
reactant | chloroacetaldehyde | 0.015 mole, 3.0 g | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | charcoal | C | CH4
solvent | water | 20 ml | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 7-chloro-5-methoxyimidazo[1,2-c]pyrimidine | ClC1=CC=2N(C(=N1)OC)C=CN2 | C7H6ClN3O
